US05852016
(RS), (RS)-N-(1 -Carboxyethyl)-N-(1,4-dihydro-6,7-dichloro-2,3-dioxoquinoxalin-5-yl)methanesulphonamide
A 1:1 mixture of the two isomers of N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(1 -methoxycarbonyl- 1-ethyl)-methanesulphonamide (Preparation 23, 1.40 g, 32 mmol), 2M hydrochloric acid (40 ml) and dioxane (40 ml) was heated in an autoclave at 130° C. for 48 h and 150° C. for 24 h. The mixture was cooled, concentrated to low volume under reduced pressure and the solid filtered off and washed with ether. The product was dissolved in 1M aqueous sodium hydroxide (40 ml) and precipitated by the addition of 2M hydrochloric acid (to pH3). The white solid was filtered off and dried in vacuo, to give the title compound (1.13 g, 89%), as a mixture of diastereomers, m.p. 282° C. (dec).

reactant | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(1 -methoxycarbonyl- 1-ethyl)-methanesulphonamide | 32 mmol, 1.40 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)C(C)C(=O)OC | C15H17Cl2N3O6S
reactant | hydrochloric acid | 2M, 40 ml | Cl | ClH
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | (RS)-N-(1 -Carboxyethyl)-N-(1,4-dihydro-6,7-dichloro-2,3-dioxoquinoxalin-5-yl)methanesulphonamide | 1.13 g, 89% | C(=O)(O)C(C)N(S(=O)(=O)C)C1=C2NC(C(NC2=CC(=C1Cl)Cl)=O)=O | C12H11Cl2N3O6S
